US06133253
33b. 3-Chloro-2-(4-nitrophenylazo)-5-hydroxypyridine
To a solution of 5-chloro-3-pyridinol (20.0 g, 0.154 mol, Aldrich) and KOH (13.0 g, 0.232 mol) in 300 mL of water at 0° C. was added p-nitrobenzenediazonium tetrafluoroborate (36.6 g, 0.154 mol, Aldrich). After 1 hour, 50 mL of glacial acetic acid was added, and the bright red precipitate was filtered and air-dried. Chromatography (silica gel; CH2Cl2 /MeOH, 95:5-90:10) afforded the title compound as a bright red solid (28.8 g, 67%): 1H NMR (DMSO-d6, 300 MHz) δ 7.14 (d, J=2.4 Hz, 1H), 7.89 (d, J=2.4 Hz, 1H), 8.00 (m, 2H), 8.39 (m, 2H); MS (CI/NH3) m/z: 279, 281 (M+H)+.

reactant | 5-chloro-3-pyridinol | 0.154 mol, 20.0 g | ClC=1C=C(C=NC1)O | C5H4ClNO
reactant | KOH | 0.232 mol, 13.0 g | [OH-].[K+]
reactant | p-nitrobenzenediazonium tetrafluoroborate | 0.154 mol, 36.6 g | F[B-](F)(F)F.[N+](=O)([O-])C1=CC=C(C=C1)[N+]#N
reactant | acetic acid | 50 mL | C(C)(=O)O | C2H4O2
solvent | water | 300 mL | O | H2O
product | 3-Chloro-2-(4-nitrophenylazo)-5-hydroxypyridine | 28.8 g, 67% | ClC=1C(=NC=C(C1)O)N=NC1=CC=C(C=C1)[N+](=O)[O-] | C11H7ClN4O3
